US04785101
Step 1. 5-(3-Carboxypropionyl)-2-hydroxyimidazole
Carbon disulfide (110 ml), 2-hydroxybenzimidazole (5 g) and 3-carbomethoxypropionyl chloride (5.6 g) are added to a flask containing aluminum chloride (25 g) under an atmosphere of nitrogen. The resulting suspension is refluxed for about 20 hours, quenched with ice cold hydrochloric acid (6N), stirred and filtered. The filtered solid is washed with water and dried in a vacuum oven, affording the desired compound as a solid, which is used in the next step without further purification, M.P. 295° C. (dec).

reactant | 2-hydroxybenzimidazole | 5 g | OC=1NC2=C(N1)C=CC=C2 | C7H6N2O
reactant | 3-carbomethoxypropionyl chloride | 5.6 g | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
reactant | aluminum chloride | 25 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | Carbon disulfide | 110 ml | C(=S)=S | CS2
product | 5-(3-Carboxypropionyl)-2-hydroxyimidazole | C(=O)(O)CCC(=O)C1=CN=C(N1)O | C7H8N2O4
